US06495576B2
2-(Phenoxy)acetamide
To a solution of phenoxyacetyl chloride (6.18 g, 36.2 mmol) in 175 mL of THF was added 75 mL of NH4OH over 15 minutes. The reaction was stirred for 16 hours at 23° C. then concentrated under reduced pressure. The crude product was dissolved in 200 mL of EtOAc and washed with 100 mL of 2 N HCL, 100 mL NaHCO3, and 100 mL of brine. The organic phase was dried over Na2SO4 and concentrated. The product was purified by recrystallization from EtOAc/hexanes to provide 4.05 g (74% yield) of the desired product as a white powder.

reactant | phenoxyacetyl chloride | 36.2 mmol, 6.18 g | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | NH4OH | 75 mL | [NH4+].[OH-]
solvent | THF | 175 mL | C1CCOC1 | C4H8O
product | 2-(Phenoxy)acetamide | 4.05 g, 74% yield | O(C1=CC=CC=C1)CC(=O)N | C8H9NO2
